US07666868B2
(E)-3-[1-(4-Ethynyl-benzenesulfonyl)-1H-pyrrol-3-yl]-N-(tetrahydro-pyran-2-yloxy)-acrylamide
To a stirred solution of (E-N-(Tetrahydro-pyran-2-yloxy)-3-[1-(4-trimethylsilanylethynyl-benzenesulfonyl)-1H-pyrrol-3-yl]-acrylamide (0.139 mmol) in methanol (1.2 ml) is added KF (0.26 mmol). After 15 min the solvent is evaporated and the residue is taken up in DCM and filtered over alumina (1 g, neutral, activity II-III) using DCM as eluent. After evaporation of the solvent 0.0801 mmol of the title compound are obtained.

reactant | E-N-(Tetrahydro-pyran-2-yloxy)-3-[1-(4-trimethylsilanylethynyl-benzenesulfonyl)-1H-pyrrol-3-yl]-acrylamide | 0.139 mmol | O1C(CCCC1)ONC(\C=C\C1=CN(C=C1)S(=O)(=O)C1=CC=C(C=C1)C#C[Si](C)(C)C)=O | C23H28N2O5SSi
reactant | KF | 0.26 mmol | [F-].[K+]
solvent | methanol | 1.2 ml | CO | CH4O
product | (E)-3-[1-(4-Ethynyl-benzenesulfonyl)-1H-pyrrol-3-yl]-N-(tetrahydro-pyran-2-yloxy)-acrylamide | C(#C)C1=CC=C(C=C1)S(=O)(=O)N1C=C(C=C1)/C=C/C(=O)NOC1OCCCC1 | C20H20N2O5S
